US07902252B2
2.107. Synthesis of 4-(3,5-difluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (98)
The title compound was synthesized from methyl 4-(3,5-difluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.081 g, 0.29 mmol) and lithium hydroxide monohydrate (61 mg, 1.45 mmol), according to General Procedure 7. A 1:6 mixture of water and methanol (MeOH)(3.5 mL) was used. The resulting product was purified by chromatography over silica gel (gradient 0 to 100% EtOAc in heptane over 20 min) to give the title compound 40 mg. 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.21 (ddt, 1H), 2.70-2.88 (m, 2H), 2.89-2.99 (m, 1H), 4.20 (dd, J=7.61, 6.64 Hz, 1H), 6.55 (s, 1H), 6.68-6.80 (m, 3H). 19F NMR (376 MHz, METHANOL-d4) δ ppm −112.87 (t, J=8.58 Hz). LCMS m/e 262 (M−H). 100% pure by HPLC.

reactant | methyl 4-(3,5-difluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.29 mmol, 0.081 g | FC=1C=C(C=C(C1)F)C1CCC=2NC(=CC21)C(=O)OC | C15H13F2NO2
reactant | lithium hydroxide monohydrate | 1.45 mmol, 61 mg | O.[OH-].[Li+]
reactant | water | O | H2O
solvent | methanol | 3.5 mL | CO | CH4O
product | 4-(3,5-difluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 40 mg | FC=1C=C(C=C(C1)F)C1CCC=2NC(=CC21)C(=O)O | C14H11F2NO2
